US05922880
In 10 ml of N,N-dimethylformamide were dissolved 0.6 g of 3-ethyl-5-methyl-4-[4-(5-trifluoromethyl-2-pyridyloxy)butyloxy]phenol and 0.23 g of potassium carbonate, to which a solution of 0.28 g of 1,1,3-trichloropropene dissolved in 5 ml of N,N-dimethylformamide was added dropwise, while stirring at room temperature. After stirring at room temperature for 12 hours, the reaction mixture was poured into ice-water, and extracted twice with 100 ml of diethyl ether. The combined diethyl ether was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude produce was subjected to silica gel chromatography, which afforded 0.50 g of 3-ethyl-5-methyl-4-[4-(5-trifluoromethyl-2-pyridyloxy)butyloxy]-1-(3,3-dichloro-2-propenyloxy)benzene (64% yield), nD23.0 1.5170.

reactant | 3-ethyl-5-methyl-4-[4-(5-trifluoromethyl-2-pyridyloxy)butyloxy]phenol | 0.6 g | C(C)C=1C=C(C=C(C1OCCCCOC1=NC=C(C=C1)C(F)(F)F)C)O | C19H22F3NO3
reactant | potassium carbonate | 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,3-trichloropropene | 0.28 g | ClC(=CCCl)Cl | C3H3Cl3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-ethyl-5-methyl-4-[4-(5-trifluoromethyl-2-pyridyloxy)butyloxy]-1-(3,3-dichloro-2-propenyloxy)benzene | 0.50 g, 64% yield | C(C)C=1C=C(C=C(C1OCCCCOC1=NC=C(C=C1)C(F)(F)F)C)OCC=C(Cl)Cl | C22H24Cl2F3NO3
